US05688961
40 mL of toluene, 6.0 g of triethoxysilane, and 0.54 mmol of a toluene solution of tris-(tetramethyldivinyldisiloxane) diplatinum (0) were placed in a three-neck flask. While stirring at room temperature, 20 mL of a toluene solution of 9.9 g of 4-[N,N-bis-(3,4-dimethylphenyl)amino]styrene was dropped into the flask. Upon completion of addition of drops, the mixture was stirred for 3 hours at 70° C. The solvent was removed under reduced pressure, and a lemon-yellow oil of 4-[N,N-bis-(3,4-dimethylphenyl)amino][2-(triethoxysilyl)ethyl]benzene was obtained. The yield was 13.4 g (yield rate of 90.1%). This refined material was subjected to the same process as in Practical Example 1, and platinum was measured in the same manner. The platinum concentration of this refined material was 1.9 ppm.

reactant | triethoxysilane | 6.0 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | 4-[N,N-bis-(3,4-dimethylphenyl)amino]styrene | 9.9 g | CC=1C=C(C=CC1C)N(C1=CC(=C(C=C1)C)C)C1=CC=C(C=C)C=C1 | C24H25N
catalyst | tris-(tetramethyldivinyldisiloxane) diplatinum (0) | [Pt].[Pt].C[Si](O[Si](C=C)(C=C)C)(C)C.C[Si](O[Si](C=C)(C=C)C)(C)C.C[Si](O[Si](C=C)(C=C)C)(C)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.54 mmol | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[N,N-bis-(3,4-dimethylphenyl)amino][2-(triethoxysilyl)ethyl]benzene | CC=1C=C(C=CC1C)N(C1=CC(=C(C=C1)C)C)C1=CC=C(C=C1)CC[Si](OCC)(OCC)OCC | C30H41NO3Si
